### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/Fubini): relax `HasLimits` hypotheses

### PR DESCRIPTION
**Pull request by robin-carlier**
Add a proof that one can construct a limit cone for a functor `(G : J × K ⥤ C)` out of a limit cone for `curry.obj G ⋙ lim` (provided the latter makes sense). From this deduce that `C` has limits of shape `J × K` if it has limits of shape `J` and of shape `K`. Remove the now unnecessary assumptions in the Fubini theorem for limits. All statements have their colimit counterpart.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Fubini.lean [hunk 1]
```diff
@@ -122,6 +122,24 @@ def coneOfConeUncurry {D : DiagramOfCones F} (Q : ∀ j, IsLimit (D.obj j))
...
 
+/-- Given a diagram `D` of limit cones over the `curry.obj G j`, and a cone over `G`,
+we can construct a cone over the diagram consisting of the cone points from `D`.
+-/
+@[simps]
+def coneOfConeCurry {D : DiagramOfCones (curry.obj G)} (Q : ∀ j, IsLimit (D.obj j))
+    (c : Cone G) : Cone D.conePoints where
+  pt := c.pt
+  π :=
+    { app := fun j =>
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Fubini.lean:133]: Could you use the slightly preferred (new) syntax throughout the file?
```suggestion
    { app j :=
```

File: Mathlib/CategoryTheory/Limits/Fubini.lean [hunk 2]
```diff
@@ -156,6 +170,20 @@ def coconeOfCoconeUncurry {D : DiagramOfCocones F} (Q : ∀ j, IsColimit (D.obj
...
+-/
+@[simps]
+def coconeOfCoconeCurry {D : DiagramOfCocones (curry.obj G)} (Q : ∀ j, IsColimit (D.obj j))
+    (c : Cocone G) : Cocone D.coconePoints where
+  pt := c.pt
+  ι :=
+    { app j := (Q j).desc
+        { pt := c.pt
+          ι := { app k := c.ι.app (j, k)
+                 naturality _ _ _ := by simp } }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Fubini.lean:184]:
```suggestion
          ι := { app k := c.ι.app (j, k) } }
```

File: Mathlib/CategoryTheory/Limits/Fubini.lean [hunk 3]
```diff
@@ -256,8 +284,58 @@ theorem DiagramOfCones.mkOfHasLimits_conePoints :
...
+    { app x := (c.π.app x.fst) ≫ (Q.obj x.fst).π.app x.snd
+      naturality {x y} f := by
+        dsimp only [Functor.const_obj_obj, Functor.const_obj_map, Functor.comp_obj, lim_obj]
+        simp only [limit.cone_x, limit.cone_π, ← limit.w (F := curry.obj G ⋙ lim) (f := f.1),
+          Functor.comp_obj, lim_obj, Functor.comp_map, lim_map, Category.assoc, Category.id_comp, c]
+        haveI : f = (Prod.sectR _ _).map f.2 ≫ (Prod.sectL _ _).map f.1 := by ext <;> simp
+        rw [this, G.map_comp]
+        dsimp only [Prod.sectR_obj, Prod.sectR_map, Prod.sectL_map]
+        rw [← curry_obj_obj_map G, ← (Q.obj x.1).π.naturality_assoc]
+        simp [Q] }}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Fubini.lean:307]: It would be nice to introduce the following to lemmas in `Products.Basic`:
```lean
@[reassoc]
lemma _root_.CategoryTheory.Prod.fac {x y : J × K} (f : x ⟶ y) :
    f = ((𝟙 x.1, f.2) : _ ⟶ ⟨x.1, y.2⟩) ≫ (f.1, 𝟙 y.2) := by aesop

@[reassoc]
lemma _root_.CategoryTheory.Prod.fac' {x y : J × K} (f : x ⟶ y) :
    f = ((f.1, 𝟙 x.2) : _ ⟶ ⟨y.1, x.2⟩) ≫ (𝟙 y.1, f.2) := by aesop
```
Then, the proof can be made slightly more readable:
```suggestion
  let Q : DiagramOfCones (curry.obj G) := .mkOfHasLimits _
  { pt := limit (curry.obj G ⋙ lim)
    π :=
    { app x := limit.π (curry.obj G ⋙ lim) x.fst ≫ (Q.obj x.fst).π.app x.snd
      naturality x y := fun ⟨f₁, f₂⟩ ↦ by
        have := (Q.obj x.1).w f₂
        dsimp [Q] at this ⊢
        rw [← limit.w (F := curry.obj G ⋙ lim) (f := f₁)]
        dsimp
        simp only [Category.assoc, Category.id_comp, Prod.fac (f₁, f₂),
          G.map_comp, limMap_π, curry_obj_map_app, reassoc_of% this] } }
```

File: Mathlib/CategoryTheory/Limits/Fubini.lean [hunk 4]
```diff
@@ -256,8 +284,58 @@ theorem DiagramOfCones.mkOfHasLimits_conePoints :
...
+      dsimp only [coneOfHasLimitCurryCompLim, limit.cone_x, Functor.const_obj_obj, Functor.comp_obj,
+        lim_obj, limit.cone_π, DiagramOfCones.mkOfHasLimits_obj, coneOfConeCurry,
+        DiagramOfCones.mkOfHasLimits_conePoints, limit.isLimit_lift, Q, Q'] at f h ⊢
+      rw [IsLimit.hom_lift (limit.isLimit _) f]
+      simp only [Functor.const_obj_obj, limit.cone_x, Functor.comp_obj, lim_obj, limit.cone_π,
+        Functor.comp_map, lim_map, limit.isLimit_lift, Q, Q']
+      congr; ext j k
+      simp only [Prod.forall, Q', coneOfHasLimitCurryCompLim, Q] at h
+      specialize h j k
+      simpa using h }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Fubini.lean:327]:
```suggestion
    uniq c' f h := by
      dsimp [coneOfHasLimitCurryCompLim] at f h ⊢
      refine limit.hom_ext (F := curry.obj G ⋙ lim) (fun j ↦ limit.hom_ext (fun k ↦ ?_))
      simp [h ⟨j, k⟩, Q'] }
```

**Comment by joelriou** [comment]
Thanks!

bors merge
